US07012077B2
A solution of 95 g (corresponds to 301.26 mmol) of crude trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexylmethyl]-carbamic acid tert-butyl ester in 300 ml of DMA was treated at 0° C. with 19.72 g (451.9 mmol) of NaH (55% in oil) in small portions. The reaction was stirred for 1 h at 0° C., then treated slowly (1.5 h) with 150 ml (2.41 mol) of iodomethane. After the addition of 60 ml of iodomethane (1 h), the reaction started, the addition was stopped and continued after reaction was cooled down again. After warming up to RT over night, the reaction was cooled, neutralized with aqueous 10% KHSO4 and poured into water/Et2O (3×). The organic phase was washed with aqueous 10% NaCl, dried over Na2SO4 evaporated and purified by flash silica gel column (CH2Cl2/EtOAc 9:1 to 1:1) to yield 99 g (quantitative) of trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester, MS: 315 (MH+).

reactant | trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexylmethyl]-carbamic acid tert-butyl ester | 301.26 mmol, 95 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C15H28N2O4
reactant | NaH | 451.9 mmol, 19.72 g | [H-].[Na+]
reactant | iodomethane | 2.41 mol, 150 ml | IC | CH3I
reactant | iodomethane | 60 ml | IC | CH3I
reactant | KHSO4 | OS(=O)(=O)[O-].[K+]
solvent | DMA | 300 ml | CC(=O)N(C)C | C4H9NO
solvent | water Et2O | O.CCOCC
product | trans-[4-(Methoxy-methyl-carbamoyl)-cyclohexylmethyl]-methyl-carbamic acid tert-butyl ester | 99 g | C(C)(C)(C)OC(N(C)C[C@@H]1CC[C@H](CC1)C(N(C)OC)=O)=O | C16H30N2O4
